US09290496B2
Step 7: Preparation of tert-butyl 4-amino-3,3-difluoropyrrolidine-1-carboxylate
A solution of tert-butyl 4-azido-3,3-difluoropyrrolidine-1-carboxylate (3.01 g, 12.1 mmol) in ethanol (300 mL) was degassed with nitrogen and 20% Pd/C (300 mg) was added. The resulting mixture was stirred under hydrogen atmosphere (balloon) for 16 hr. The catalyst was removed by filtration. The filtrate was evaporated to give the title product as an oil (2.63 g, 98% yield, >85% purity). 1H NMR (400 MHz, chloroform-d) δ ppm 3.73-3.87 (m, 2 H) 3.69 (d, J=10.64 Hz, 1 H) 3.50-3.62 (m, 1 H) 3.13 (d, J=6.85 Hz, 1 H) 1.45-1.48 (m, 9 H). 19F NMR (376 MHz, chloroform-d) δ ppm −115.05-−110.78 (m, 1F) −120.95-−117.90 (m, 1 F). m/z (APCI+) for C9H16F2N2O2 123 (M+H)+.

reactant | tert-butyl 4-azido-3,3-difluoropyrrolidine-1-carboxylate | 12.1 mmol, 3.01 g | N(=[N+]=[N-])C1C(CN(C1)C(=O)OC(C)(C)C)(F)F | C9H14F2N4O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | tert-butyl 4-amino-3,3-difluoropyrrolidine-1-carboxylate | 2.63 g, 98% yield | NC1C(CN(C1)C(=O)OC(C)(C)C)(F)F | C9H16F2N2O2
